US04179558
(A) 2-[[4-[3-(Dimethylamino)propoxy]phenyl]methylene] -2,3-dihydro-1H-inden-1-one
Interaction of 56 g of 1-indanone and 88 g of 4-(3-dimethylaminopropoxy)benzaldehyde according to the procedure described in Example 1A, gives 134.2 g of an oily product.

reactant | 1-indanone | 56 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | 4-(3-dimethylaminopropoxy)benzaldehyde | 88 g | CN(CCCOC1=CC=C(C=O)C=C1)C | C12H17NO2
product | 2-[[4-[3-(Dimethylamino)propoxy]phenyl]methylene] -2,3-dihydro-1H-inden-1-one | 134.2 g | CN(CCCOC1=CC=C(C=C1)C=C1C(C2=CC=CC=C2C1)=O)C | C21H23NO2
